US08476434B2
Synthesis of 3-Amino-5-trifluoromethylphenol
To a round bottom flask was added 3-methoxy-5-trifluoromethyl-phenylamine (1.0 g, 5.23 mmol), 10 mL HBr (49% aq.), and 8 mL glacial acetic acid. A reflux condenser was attached and the solution heated to 140° C. for 20 h. The reaction was then diluted with water and neutralized to ˜pH 7 by slow addition of saturated NaHCO2. The aqueous solution was then extracted into EtOAc twice. The organic layers were combined, washed once with brine, dried over Mg2SO4, filtered, and concentrated in vacuo to yield the title compound as a tan solid (750 mg). MS (M+H)+=178; Calc'd 177.12 for C7H6F3NO.

reactant | 3-methoxy-5-trifluoromethyl-phenylamine | 5.23 mmol, 1.0 g | COC=1C=C(C=C(C1)C(F)(F)F)N | C8H8F3NO
reactant | HBr | 10 mL | Br | BrH
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-Amino-5-trifluoromethylphenol | 750 mg | NC=1C=C(C=C(C1)C(F)(F)F)O | C7H6F3NO
